US07300951B2
To a solution of 3,3,3-trifluoro-2-(trifluoromethyl)-1-(hydroxymethyl)propylamine (prepared according to the method of Example 28, Part A, 105 mg, 0.5 mmol) in CH2Cl2 (1 mL) was added pyridine (100 μL) and 2-thiophenesulfonyl chloride (90.5 mg, 0.5 mmol) in CH2Cl2 (1 mL). The solution was stirred for about 8 to about 16 h at 25° C. and then concentrated. EtOAc (1 mL) was added and the solution was washed with 1M HCl (1 mL), brine (1 mL), dried over Na2SO4 and concentrated. The crude solid was purified by the Biotage Flash™ 12 chromatography system, eluting with EtOAc/hexanes (2:3), to give thiophene-2-sulfonic acid (3,3,3-trifluoro-1-hydroxymethyl-2-trifluoromethyl-propyl)-amide (26.5 mg) as a white solid.

reactant | 3,3,3-trifluoro-2-(trifluoromethyl)-1-(hydroxymethyl)propylamine | FC(C(C(CO)N)C(F)(F)F)(F)F | C5H7F6NO
reactant | pyridine | 100 μL | N1=CC=CC=C1 | C5H5N
reactant | 2-thiophenesulfonyl chloride | 0.5 mmol, 90.5 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | thiophene-2-sulfonic acid (3,3,3-trifluoro-1-hydroxymethyl-2-trifluoromethyl-propyl)-amide | 26.5 mg | FC(C(C(CO)NS(=O)(=O)C=1SC=CC1)C(F)(F)F)(F)F | C9H9F6NO3S2
